US08048894B2
Method 10. Preparation of Methyl 6-chloro-4-hydroxy-1-methyl-2-oxo-1,2-dihydro-1,7-naphthyridine-3-carboxylate
2-Chloro-5-(methylamino)isonicotinic acid. A mixture of methyl 2-chloro-5-(methylamino)isonicotinate (10 g, 0.05 mol) and 2 N NaOH (50 mL) in EtOH (50 mL) was heated at 55° C. for 2 hours. The reaction mixture was cooled to room temperature and most of the EtOH was evaporated under reduced pressure. The pH of the aqueous residue was adjusted to pH=3 with 1 N HCl, and the solid precipitate was filtered and dried in vacuo to give the title compound.

reactant | 2-Chloro-5-(methylamino)isonicotinic acid | ClC=1C=C(C(=O)O)C(=CN1)NC | C7H7ClN2O2
reactant | methyl 2-chloro-5-(methylamino)isonicotinate | 0.05 mol, 10 g | ClC=1C=C(C(=O)OC)C(=CN1)NC | C8H9ClN2O2
reactant | NaOH | 2 N, 50 mL | [OH-].[Na+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | Methyl 6-chloro-4-hydroxy-1-methyl-2-oxo-1,2-dihydro-1,7-naphthyridine-3-carboxylate | ClC=1C=C2C(=C(C(N(C2=CN1)C)=O)C(=O)OC)O | C11H9ClN2O4
